US04654353
A 1.6M solution of n-butyllithium in hexane (45 ml) was added dropwise to a solution of 1-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}-2-propyne (132 g) in tetrahydrofuran (1 l.) keeping the temperature below -40°. The mixture was stirred at -60° for 2 hours and then carbon dioxide gas was passed through the solution for 30 minutes with cooling in an acetone/solid carbon dioxide bath. The mixture was allowed to warm to 0° while the passage of carbon dioxide gas was continued and then it was quenched with water (1 l.) and the layers separated. The aqueous layer was extracted into ether (500 ml) and the combined organic layers were washed with water, diluted with dichloromethane, washed with 1M HCl, dried over MgSO4 and evaporated. The residue was triturated with methanol and the resulting solid collected, washed with cold (-20°) methanol and dried to give 4-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}but-2-ynoic acid, (83.7 g), m.p. 150°-152°.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 1-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}-2-propyne | 132 g | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)COCC#C)C(=O)OCC | C21H21Cl2NO5
reactant | carbon dioxide | C(=O)=O | CO2
solvent | hexane | 45 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 1 l | O1CCCC1 | C4H8O
product | 4-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}but-2-ynoic acid | 83.7 g | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)COCC#CC(=O)O)C(=O)OCC | C22H21Cl2NO7
